US07459472B2
4-Hydroxy-3′,5′-bis-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-amide (48 mg) was prepared from 4-Ethoxy-3′,5′-bis-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-amide (69 mg, 0.10 mmol) and boron tribromide (0.25 mL, 0.25 mmol, 1.0 M solution in DCM) following the general procedure P.

reactant | 4-Ethoxy-3′,5′-bis-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-amide | 0.10 mmol, 69 mg | ClC=1C=C(C=CC1F)C1=CC=C(C=C1)C[C@H](C1=NC(=NO1)C)NC(=O)C=1C=C(C=CC1OCC)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C34H25ClF7N3O3
reactant | boron tribromide | 0.25 mmol, 1.0 M, 0.25 mL | B(Br)(Br)Br | BBr3
product | 4-Hydroxy-3′,5′-bis-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-amide | 48 mg | ClC=1C=C(C=CC1F)C1=CC=C(C=C1)C[C@H](C1=NC(=NO1)C)NC(=O)C=1C=C(C=CC1O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C32H21ClF7N3O3
